US08980911B2
A stirred solution of 3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoic acid (100 mg, 0.23 mmol) in anhydrous dimethylformamide (5 mL) was treated with 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (68 mg, 0.358 mmol), 1-hydroxy-7-azabenzotriazole (37 mg, 0.276 mmol), N,N-diisopropylethylamine (89 mg, 0.69 mmol). Ethyl alaninate (38 mg, 0.25 mmol) was added and the reaction mixture was stirred at room temperature for about 16 hours. The reaction mixture was poured into water (100 mL) and extracted with ethylacetate (2×30 mL). The combined organic layer was washed with brine, dried over anhydrous sodium sulphate and concentrated to give crude product which was purified by flash silica gel column chromatography using linear gradient ethyl acetate and hexane to afford ethyl N-[3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoyl]alaninate (43 mg, 34%).

reactant | 3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoic acid | 0.23 mmol, 100 mg | ClC=1C=C(C(=O)O)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(=O)C2CC2)Cl | C19H13Cl2N3O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 0.358 mmol, 68 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxy-7-azabenzotriazole | 0.276 mmol, 37 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethylamine | 0.69 mmol, 89 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ethyl alaninate | 0.25 mmol, 38 mg | N[C@@H](C)C(=O)OCC | C5H11NO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | ethyl N-[3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoyl]alaninate | 43 mg, 34% | ClC=1C=C(C(=O)N[C@@H](C)C(=O)OCC)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(=O)C2CC2)Cl | C24H22Cl2N4O5
